### PR TITLE
[Merged by Bors] - feat: port Analysis.Complex.UpperHalfPlane.Basic

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,519 @@
...
+instance subgroup_to_SL_tower : IsScalarTower Γ SL(2, ℤ) ℍ where
+  smul_assoc s g z := by
+    rw [subgroup_on_SL_apply]
+    apply MulAction.mul_smul
+#align upper_half_plane.subgroup_to_SL_tower UpperHalfPlane.subgroup_to_SL_tower
+
+end ModularScalarTowers
+
+example {R : Type _} [CommRing R] [Algebra R ℝ] (r : R) : ℝ := algebraMap R ℝ r
+
```
Comment (ChrisHughes24) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:319]:
```suggestion
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,519 @@
...
+  ring
+#align upper_half_plane.denom_cocycle UpperHalfPlane.denom_cocycle
+
+theorem mul_smul' (x y : GL(2, ℝ)⁺) (z : ℍ) : smulAux (x * y) z = smulAux x (smulAux y z) := by
+  ext1
+  -- Porting note: was `change _ / _ = (_ * (_ / _) + _) * _`
+  change _ / _ = (_ * (_ / _) + _) / _
+  conv =>
+    rhs
+    rw [div_eq_mul_inv]
```
Comment (ChrisHughes24) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:238]:
```suggestion
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,519 @@
...
+  field_simp [denom_ne_zero]
+  simp only [Matrix.mul, dotProduct, Fin.sum_univ_succ, denom, num, Subgroup.coe_mul,
+    GeneralLinearGroup.coe_mul, Fintype.univ_ofSubsingleton, Fin.mk_zero, Finset.sum_singleton,
+    Fin.succ_zero_eq_one, Complex.ofReal_add, Complex.ofReal_mul]
+  ring
+#align upper_half_plane.denom_cocycle UpperHalfPlane.denom_cocycle
+
+theorem mul_smul' (x y : GL(2, ℝ)⁺) (z : ℍ) : smulAux (x * y) z = smulAux x (smulAux y z) := by
+  ext1
+  -- Porting note: was `change _ / _ = (_ * (_ / _) + _) * _`
```
Comment (ChrisHughes24) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:234]:
```suggestion
```
It still is that

**Review by ChrisHughes24 — APPROVED** [review]
bors d+

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:234]: No, there's a `/` as final operator now, instead of `*`.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:238]: I assume that this is still necessary, for the same reason?

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean (hunk 1 above)
Comment (jcommelin) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:319]:
```suggestion
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:238]: It seems like it isn't anymore? Huh.
